US07910556B2
To a solution of 200.5 mg of N-t-butoxycarbonyl-β-cyclohexyl-L-alanine dihydrate (0.652 mmol) in tetrahydrofuran (1.5 mL), 101.7 mg of 1-(aminoethyl)piperidine (0.793 mmol), 89.7 mg of 1-hydroxybenzotriazole hydrate (0.664 mmol), and 146.1 mg of N,N′-dicyclohexylcarbodiimide (0.708 mmol) were added with stirring under ice cooling. The reaction mixture was stirred for 1 hour under ice cooling and for 1 hour at room temperature, and then concentrated under reduced pressure. Ethyl acetate (1 mL) was added to the residue. Insoluble materials were removed by filtration, and then the filtrate was concentrated under reduced pressure. The residue (438 mg) was purified by column chromatography on alumina (alumina 2 g, chloroform), whereby 267 mg of the crude product was obtained. The crude product was purified by silica gel column chromatography [silica gel 10 g, about 15% ammonia/methanol-chloroform (1:100)], whereby 240.0 mg of N-t-butoxycarbonyl-β-cyclohexyl-L-alanine 2-(1-piperidinyl)ethyl amide was obtained as a colorless oil (yield 96%)

reactant | N-t-butoxycarbonyl-β-cyclohexyl-L-alanine dihydrate | 0.652 mmol, 200.5 mg | O.O.C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)C(=O)O
reactant | 1-(aminoethyl)piperidine | 0.793 mmol, 101.7 mg | NCCN1CCCCC1 | C7H16N2
reactant | 1-hydroxybenzotriazole hydrate | 0.664 mmol, 89.7 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N′-dicyclohexylcarbodiimide | 0.708 mmol, 146.1 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | N-t-butoxycarbonyl-β-cyclohexyl-L-alanine 2-(1-piperidinyl)ethyl amide | 240.0 mg | N1(CCCCC1)CCNC([C@@H](NC(=O)OC(C)(C)C)CC1CCCCC1)=O | C21H39N3O3
